US07087599B2
A solution of 9a-butyl-4-(4-hydroxyphenyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (303 mg, 91% weight pure, 0.76 mmol) and pyridine (0.307 mL, 3.8 mmol) in anhydrous CH2Cl2 (1.2 mL) was cooled in an ice bath and stirred under a nitrogen atmosphere while trifluoromethanesulfonic anhydride (0.147 mL, 0.87 mmol) was added dropwise by syringe. After stirring at 0° C. for 45 minutes, the reaction mixture was diluted with CH2Cl2 (20 mL) and shaken with water (10 ml) containing 1N NaOH (5 mL). The organic phase was separated, washed with water (10 mL), 1M pH 3 phosphate buffer (10 mL), water (10 mL), and brine (10 mL), dried over MgSO4, filtered, and evaporated under vacuum to an orange solid (394 mg). The crude product was purified by flash chromatography on EM silica gel 60 (230-400 mesh, 25 mL dry, packed under 4:1 hexanes-EtOAc) using 4:1 hexanes-EtOAc as eluting solvent. The product containing fractions were evaporated under vacuum to a yellow solid (345 mg). This material was triturated with petroleum ether and dried under vacuum to afford 9a-butyl-7-methoxy-4-[4-(trifluoromethane-sulfonyloxy)-phenyl]-1,2,9,9a-tetrahydro-3H-fluoren-3-one (313 mg) as a pale yellow solid.

reactant | 9a-butyl-4-(4-hydroxyphenyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.76 mmol, 303 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)O)OC | C24H26O3
reactant | pyridine | 3.8 mmol, 0.307 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.87 mmol, 0.147 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
solvent | CH2Cl2 | 1.2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 9a-butyl-7-methoxy-4-[4-(trifluoromethane-sulfonyloxy)-phenyl]-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 313 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)OC | C25H25F3O5S
